US05977139
Combine (+)-1-(2-(3-(3,4-dichlorophenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl)-ethyl)-4-phenylpiperidine-4-carboxylic acid amide prepared by the method of U.S. Pat. No. 5,635,510, issued Jun. 3, 1997 (200 g, 300 mmol), dioxane (400 mL), concentrated aqueous hydrochloric acid (400 mL), and water (400 mL). Heat to reflux. After 26 hours, cool to ambient temperature and concentrate the reaction mixture in vacuo at about 60° C. to a volume of about 700 mL. Add water (400 mL) and extract with 9/1 ethyl acetate/hexaneo Separate the layers and extract the aqueous layer twice with 1/1 ethyl acetate/hexane. Adjust the pH of the aqueous layer to about 7 using sodium hydroxide to form a solid. Filter and dry to give (S)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine.

reactant | (+)-1-(2-(3-(3,4-dichlorophenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl)-ethyl)-4-phenylpiperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C34H39Cl2N3O5
reactant | dioxane | 400 mL | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 400 mL | Cl | ClH
solvent | water | 400 mL | O | H2O
product | (S)-3-(2-(4-phenyl-4-carboxypiperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine | C1(=CC=CC=C1)C1(CCN(CC1)CC[C@]1(CNCC1)C1=CC(=C(C=C1)Cl)Cl)C(=O)O | C24H28Cl2N2O2
